US07759468B1
To a solution of SnCl2 dihydrate (19.2 g, 85 mmol) in 8 ml water and 24 ml concentrated Hcl was added N-methyl-4-nitrophthalimide (4.5 g, 21.8 mmol). The mixture was stirred vigorously for 2 hours, and allowed to stand overnight. The mixture was then concentrated to ¾ original volume using rotavapor. The solid obtained was filtered and washed with water several times. The solid was dried to give 4-amino-N-methylphthalimide ((2.1 g (54.7%), Mp 247-248° C.).

reactant | N-methyl-4-nitrophthalimide | 21.8 mmol, 4.5 g | CN1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C9H6N2O4
solvent | water | 8 ml | O | H2O
product | 4-amino-N-methylphthalimide | NC=1C=C2C(C(=O)N(C2=O)C)=CC1 | C9H8N2O2
